Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
epigastric and back pain
 
Major Surgical or Invasive Procedure:
ERCP ___

 
History of Present Illness:
Patient is a ___ year old woman with hypothyroidism, PCOS (on 
OCP), hiatal hernia, questionable diagnosis of Sjogren's, ___ 
cholecystectomy, who presents with epigastric pain and back 
pain. 

She reports that she has had post prandial vomiting, abdominal 
pain for years since she was a ___. These sxs usually occur 
within 2 hours of eating, last for ___ days and resolve 
spontaneously. Her last severe episode was in ___ when she 
was eventually diagnosed with cholelithiasis and underwent 
cholecystectomy. She has also had an EGD in her early ___ which 
showed a hiatal hernia. Since her ___, she has had three 
episodes of above sxs last year which were self limiting.

Two weeks ago, she an episode of emesis and sharp epiagstric 
abdominal pain after eating. Then one week ago on ___, she 
had another episode of post prandial emesis. On Sasturday, she 
felt "heavy" after eating and
vomited within two hours of eating. Yesterday she ate at around 
3 pm and vomited food contents at 10 pm. ROS + dark urine, mid 
back pain, poor PO, nausea. Today she ate ground ___, 
chicken, gatorde and vomited again. She now presents with 
constant epigastric pain in a band like pattern across her 
abdomen. She also reports pruritus in her lower extremities. 
Denies fever, chills, any change to her diet, diarrhea. She saw 
her PCP who referred her to ED.

Of note, she reports she was diagnoased with Sjogren's by a 
rheumatologist in ___ based on a positive ___ incidentally 
ordered during her ___ admission and was put on plaquenil, which 
pt dc'd as she was not sure if it was necessary. She denies any 
rashes, joint sxs, fever, dry eyes, dry mouth, etc.

In the ED, initial VS were: 98.9 106 128/81 16 100% RA 
ED physical exam was recorded as paraspinous muscle tenderness 
bilateral mid back, soft abdomen, mild tenderness to palpation 
in epigastrium
ED labs were notable for: 
AST 117, ALT 328, Alk phso 291, T bili 2.5
UA with small ___, 4 RBC, 6 WBC, few bacteria, 13 epi, large bili
RUQ US showed:
Intra- and extrahepatic biliary dilatation of unknown etiology. 
No definite obstructing mass or evidence of choledocholithiasis. 
However, ___ or ERCP is recommended for further 
characterization
Patient was given Zofran, toradol and IVF
Transfer VS were:  98.1 76 126/72 16 100% RA 
 
REVIEW OF SYSTEMS: 
 A ten point ROS was conducted and was negative except as above 
in the HPI.

 
Past Medical History:
Hypothyroidism
PCOS (on OCP)
Hiatal hernia
Questionable diagnosis of Sjogren's
 
Social History:
___
Family History:
Mo - HLD
 Fa HLD, HTN, DM
PGM panc ca;
PGF colon CA

 
Physical Exam:
Admission physical exam:
 Gen: NAD, lying in bed
 Eyes: EOMI, sclerae anicteric  
 ENT: MMM, OP clear
 Cardiovasc: RRR, no MRG, full pulses, no edema  
 Resp: normal effort, no accessory muscle use, lungs CTA ___.
 GI: soft, RUQ tenderness to palpation, ND, BS+
 MSK: No significant kyphosis. No palpable synovitis.
 Skin: No visible rash. No jaundice.
 Neuro: AAOx3. No facial droop.
 Psych: Full range of affect

Discharge physical exam:
VS:  97.8 76 113/75 16 99%RA
General: Well appearing young woman sitting up in bed in NAD
Eyes: PERLL, EOMI, sclera anicteric
ENT: MMM, oropharynx clear without exudate or lesions 
Respiratory: CTAB without crackles, wheeze, rhonchi. 
Cardiovascular: RRR, normal S1 and S2, no murmurs, rubs or
gallops
Gastrointestinal: Soft, nontender to palpation, nondistended, 
+BS 
Extremities: Warm and well perfused, no peripheral edema 
Skin: warm, no rashes/no jaundice/no skin ulcerations noted
Neurological: Alert and oriented x3, motor and sensory exam
grossly intact 

 
Pertinent Results:
___ 05:31PM   GLUCOSE-99 UREA N-6 CREAT-0.5 SODIUM-137 
POTASSIUM-3.8 CHLORIDE-102 TOTAL CO2-21* ANION GAP-18
___ 05:31PM   estGFR-Using this
___ 05:31PM   ALT(SGPT)-328* AST(SGOT)-117* ALK PHOS-291* 
TOT BILI-2.5*
___ 05:31PM   ALBUMIN-4.0 CALCIUM-9.2 PHOSPHATE-2.8 
MAGNESIUM-2.1
___ 05:31PM   WBC-6.3 RBC-4.64 HGB-12.2 HCT-36.6 MCV-79*# 
MCH-26.3 MCHC-33.3 RDW-14.3 RDWSD-41.1
___ 05:31PM   NEUTS-66.8 ___ MONOS-7.1 EOS-0.6* 
BASOS-0.3 IM ___ AbsNeut-4.21 AbsLymp-1.57 AbsMono-0.45 
AbsEos-0.04 AbsBaso-0.02
___ 05:25PM URINE  HOURS-RANDOM
___ 05:25PM URINE  COLOR-DkAmb APPEAR-Hazy SP ___
___ 05:25PM URINE  RBC-4* WBC-6* BACTERIA-FEW YEAST-NONE 
EPI-13

IMAGING: 

RUQ US ___
FINDINGS:  
  
LIVER: The hepatic parenchyma appears within normal limits. The 
contour of the liver is smooth. There is no focal liver mass. 
The main portal vein is patent with hepatopetal flow. There is 
no ascites. 
  
BILE DUCTS: There is intrahepatic biliary dilatation, most 
noticeable in the left lobe. The common bile duct is mildly 
dilated measuring 1.0 cm across maximal diameter. 
  
GALLBLADDER: The patient is status post cholecystectomy. 
  
PANCREAS: The imaged portion of the pancreas appears within 
normal limits, 
without masses or pancreatic ductal dilation, with portions of 
the pancreatic tail obscured by overlying bowel gas. 
  
KIDNEYS: Limited views of the right kidney show no 
hydronephrosis 
  
IMPRESSION:  
  
Intra- and extrahepatic biliary dilatation which may relate to 
post-cholecystectomy state. Correlation with LFTs is 
recommended. 

ERCP ___
Procedures:A sphincterotomy was performed in the 12 o'clock 
position using a sphincterotome over an existing guidewire.
Cytology samples were obtained for histology using a brush in 
the bile duct.
A 7cm by ___ ___ biliary stent was placed successfully 
using a ___ stent introducer kit.  
Impression:
Diffuse linear furrowing in the esophagus (biopsy)
Gastric erythema/ulcer (biopsy)
Duodenal edema,erythema and friability  (biopsy).
The ampulla was prominent/bulging and friable - easy bleeding 
with contact. Cold forceps biopsies were performed for histology 
at the ampulla. 
After sphincterotomy - the ampulla appeared fleshy with 
irregular intra-ampullary mucosa - this was concerning for 
neoplasm.  The appeared to the site of biliary obstruction. 
The bile duct was deeply cannulated with the sphincterotome.
Contrast was injected and there was brisk flow through the 
ducts. Contrast extended to the entire biliary tree.
 The CBD, CHD, left/right hepatic duct and intrahepatics were 
dilated to the level of the ampulla.
A biliary sphincterotomy was made with a sphincterotome. There 
was mild post-sphincterotomy bleeding in the setting of a 
friable mucosa.
The biliary tree was swept with a 9-12mm balloon starting at the 
bifurcation. No sludge or stones removed.
Cytology samples were obtained for histology using a brush in 
the bile duct.
A ___ X 7 cm ___ biliary stent was placed successfully 
using a OASIS stent introducer kit.
Excellent bile and contrast drainage was seen endoscopically and 
fluoroscopically
Otherwise normal ercp to third part of the duodenum
Recommendations:
Return to ward for on going care.
NPO overnight with aggressive IV hydration with LR at 200 cc/hr
If no abdominal pain in the morning, advance diet to clear 
liquids and then advance as tolerated
No aspirin, Plavix, NSAIDS, Coumadin for 5 days.
Follow up with cytology reports. Please call Dr. ___ 
___ ___ in 7 days for the pathology results
Please obtain ___: rule out a neoplastic process
Omeprazole 40mg BID IV every 12 hours. Change to PO once dietary 
status changed
Repeat EGD to assess the gastric cardia ulcer and ERCP with Dr 
___ in ___ weeks for stent pull and re-evaluation.
Follow for response and complications. If any abdominal pain, 
fever, jaundice, gastrointestinal bleeding please call Advanced 
Endoscopy Fellow on call ___
The above findings and recommendations were discussed with 
inpatient attending Dr ___

___ ___
IMPRESSION:  
  
Post cholecystectomy.  Moderate intrahepatic biliary ductal 
dilatation, 
predominantly involving the left hepatic lobe, and to lesser 
extent the right hepatic lobe.  Apparent interval decrease in 
caliber of the common bile duct, presumed to be secondary to the 
placement of a biliary stent.  Hypoenhancing lesion in the 
region of the pancreatic head/ampullary region is concerning for 
an underlying neoplasm and correlation with final pathology from 
the ERCP is recommended. 

PATHOLOGY: Biliary Cytology/ampullary biopsy pending from ___

Discharge labs: 

  

___ 07:00AM BLOOD WBC-6.6 RBC-4.13 Hgb-10.6* Hct-32.8* 
MCV-79* MCH-25.7* MCHC-32.3 RDW-14.2 RDWSD-41.0 Plt ___
___ 07:00AM BLOOD Glucose-95 UreaN-4* Creat-0.5 Na-140 
K-4.1 Cl-102 HCO3-28 AnGap-14
___ 07:00AM BLOOD ALT-368* AST-139* AlkPhos-231* 
TotBili-0.9
___ 07:00AM BLOOD Calcium-8.7 Phos-3.8 Mg-1.9
___ 07:10AM BLOOD ALT-339* AST-132* AlkPhos-241* 
TotBili-1.8*
 
Brief Hospital Course:
___ nurse ___ admitted with 1 week prandial 
epig/RUQ
pain and biliary obstruction, found to have ampullary mass. 

#Biliary obstruction/ampullary mass: ERCP performed ___ showed 
large friable ampullary mass, with brushings and bx taken and 
pending. Biliary obstruction appears improved after stenting 
with improvement in bilirubin and sx. ___ ___ showed 
improvement in biliary obstruction after stenting as well as 
ampullary mass. All cell lines down on CBC, less likely 
post-ERCP bleed and more likely hemodilution given high volume 
of IVF and no evidence of bleeding, with Hgb stable on day of 
discharge. Will need f/u ERCP for stent pull in ___ weeks, no 
NSAIDS for 5 days, will follow up cytology/pathology and contact 
patient with plans for further evaluation or intervention.  

#Esophagitis/duodenitis/gastric ulcer: Found to have significant 
irritation and ulceration from acid. Treated with IV 
pantoprazole 40mg BID in house, transitioned to 40mg BID PO on 
discharge. Will need f/u EGD in ___ weeks. 

# Hypothyroidism: Continued levothyroxine

Transitional issues:
-Newly discovered ampullary mass was likely cause of biliary 
obstruction. Cytology pending at time of discharge. 
-Discovered to have esophagitis, duodenitis, and gastric ulcer 
so discharged on high dose PPI. 
-Will need follow up EGD/ERCP in ___ weeks for evaluation of 
ulcer and for stent removal.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. norethindrone-e.estradiol-iron 1 mg-20 mcg (21)/75 mg (7) 
oral DAILY 
2. Pantoprazole 40 mg PO Q24H 
3. Levothyroxine Sodium 50 mcg PO DAILY 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
2.  Levothyroxine Sodium 50 mcg PO DAILY  
3.  norethindrone-e.estradiol-iron 1 mg-20 mcg (21)/75 mg (7) 
oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Bile duct obstruction, ampullary mass

Secondary: Esophagitis, gastric ulcer, duodenitis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted with abdominal pain and biliary obstruction. 
You underwent ERCP and were found to have fleshy abnormality 
around the ampulla area, concerning for a growth. Brush cytology 
was done and is pending at this time, though will be followed up 
by the ERCP team. A stent was placed and you will need to have 
this pulled in about a month. The ERCP team will arrange follow 
up with you. An ___ was performed and confirmed the presence of 
a mass, but showed that biliary obstruction has improved with 
the stent. Your bilirubin has improved, but you should follow up 
with your PCP for repeat liver function tests in about one week. 


You were also found to have a stomach ulcer and acid irritation 
of the esophagus and intestine. Please take high dose Protonix 
twice daily, and the GI team will follow this up when they 
perform a repeat scope in about one month. 

Your diet was advanced and tolerated. Please refrain from any 
aspirin or NSAID products for the next 4 days.

It was a pleasure caring for you, 

Your ___ Care Team
 
Followup Instructions:
___